US08138377B2
A solution of 3-p-tolyl-cyclopent-2-en-1-one (5.0 g, 29.07 mmol) in ethanol (100 mL) was treated with CeCl3 (7.15 g, 29.07 mmol) followed portionwise by NaBH4 (1.32 g, 34.9 mmol) at room temperature. The reaction mixture was stirred for 0.5 h, then quenched with saturated aqueous NH4Cl and concentrated to remove ethanol. The concentrate was diluted with H2O and extracted with DCM (3×). The combined organic extracts were dried over MgSO4, filtered, concentrated in vacuo and purified by silica gel chromatography using 10-30% EtOAc/Heptane as the eluting solvent to afford 3.8 g (Yield 75%) of 3-p-tolyl-cyclopent-2-en-1-ol. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.15-1.31 (m, 1 H) 1.55-1.73 (m, 1 H) 2.17-2.26 (m, 1 H) 2.22-2.32 (m, 3 H) 2.41-2.54 (m, 1 H) 2.66-2.78 (m, 1 H) 4.72 (d, 1 H) 4.74-4.80 (m, 1 H) 6.12-6.17 (m, 1 H) 7.13 (d, 2 H) 7.36 (d, 2 H)

reactant | 3-p-tolyl-cyclopent-2-en-1-one | 29.07 mmol, 5.0 g | C1(=CC=C(C=C1)C1=CC(CC1)=O)C | C12H12O
reactant | NaBH4 | 34.9 mmol, 1.32 g | [BH4-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-p-tolyl-cyclopent-2-en-1-ol | 3.8 g, Yield 75% | C1(=CC=C(C=C1)C1=CC(CC1)O)C | C12H14O
